US08835420B2
Preparation x36: 1-(5-(1-Aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-4-methylpiperidin-4-ol
To a solution of 6-(4-hydroxy-4-methylpiperidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile (245 mg, 0.906 mmol) in THF (5 mL) at 0° C. was slowly added 3M methylmagnesium bromide in ether (1.21 mL, 3.63 mmol). The resulting yellow solution was stirred at 0° C. for 2.5 hours. The reaction was quenched with MeOH (5 mL) and stirred for 15 minutes at RT. Sodium borohydride (68.6 mg, 1.81 mmol) was added. The reaction was stirred for 1 hour, quenched with 1M HCl (5 mL), and then stirred for an additional 15 minutes. The mixture was subsequently diluted with EtOAc and washed with saturated aqueous NaHCO3 (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo to give the title compound, which was used without further purification. ESI-MS m/z [M+H]+ calc'd for C16H24N4, 289; found 289.

reactant | 6-(4-hydroxy-4-methylpiperidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile | 0.906 mmol, 245 mg | OC1(CCN(CC1)C=1C=C2C(=NC1C#N)C=CN2C)C | C15H18N4O
reactant | methylmagnesium bromide | 3M | C[Mg]Br
reactant | ether | 3.63 mmol, 1.21 mL | CCOCC | C4H10O
reactant | Sodium borohydride | 1.81 mmol, 68.6 mg | [BH4-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(5-(1-Aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-4-methylpiperidin-4-ol | NC(C)C1=C(C=C2C(=N1)C=CN2C)N2CCC(CC2)(O)C | C16H24N4O
